US07939526B2
Sodium hydride (60% dispersion in oil, 30 mg, 0.74 mmol) was added to a stirred solution of 1-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol (2.00 g, 7.43 mmol) in tetrahydrofuran (30 mL). After five minutes, methyl vinyl sulfone (1.60 g, 14.9 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 1.5 hours and a solid formed. A few drops of water were added to the mixture, which was then concentrated under reduced pressure to yield a solid that was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to provide 1.90 g of 2-ethyl-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline as a white solid.

reactant | Sodium hydride | 0.74 mmol, 30 mg | [H-].[Na+]
reactant | 1-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 7.43 mmol, 2.00 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C16H19N3O
reactant | methyl vinyl sulfone | 14.9 mmol, 1.60 g | C(=C)S(=O)(=O)C | C3H6O2S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | water | A few drops | O | H2O
product | 2-ethyl-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline | 1.90 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(OCCS(=O)(=O)C)C | C19H25N3O3S
